US04909935
4-Allyloxybenzoic acid (2.0 g, 0.011 mole) was stirred in a mixture of 3 equivalents of oxalyl chloride, 25 mL of anhydrous methylene chloride and one drop of dimethylformamide (DMF) at room temperature for 2 hours. The solvent and excess oxalyl chloride were removed under vacuum. Benzene (10 mL) was added and the material was again subjected to vacuum distillation to remove the remaining traces of oxalyl chloride. The remaining light yellow oil was dissolved in 25 mL of anhydrous methylene chloride, and the resulting solution was added dropwise to an ice cold, stirring solution of 2 g (0.012 mole) of (S)-1-(1-naphthyl)ethylamine (Aldrich) and 1 equivalent of triethylamine in 50 mL of anhydrous methylene chloride. The mixture was stirred at 0° C. for 2 h and at room temperature for 1 h. The resulting methylene chloride solution was washed successively with 0.1N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate solution, and then with water. The phases were separated, and the aqueous phase was extracted twice with 50 mL portions of methylene chloride. The methylene chloride phases were combined, dried over anhydrous magnesium sulfate, and the solvent was removed to give (S)-N-1-(1-naphthyl)ethyl-4-allyloxybenzamide as a crude solid. The solid was recrystallized from absolute ethanol to give white crystals, 2.25 g (62%); mp 141°-143° C.; [α]D25 +58.18° (c=0.373, CHCl3); IR (KBr): 3220 and 1625 cm-1 ; NMR (δ): 1.80 (3H, d, J=7.5 Hz), 4.56 (2H, d, J=5 Hz), 5.24-5.56 (2H, m,), 5.86-6.20 (2H, m), 6,36 (1H, q, J=6 Hz), 6.80-7.00 (2H, m); 7.40-8.28 (9H, m). Anal. for C22H21NO2 : Calcd: C, 79.75; H, 6.34, N, 4.22. Found: C, 79.62; H, 6.40; N, 4.44.

reactant | 4-Allyloxybenzoic acid | 0.011 mole, 2.0 g | C(C=C)OC1=CC=C(C(=O)O)C=C1 | C10H10O3
reactant | oxalyl chloride | 3 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-1-(1-naphthyl)ethylamine | 0.012 mole, 2 g | C1(=CC=CC2=CC=CC=C12)[C@H](C)N | C12H13N
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-1-(1-naphthyl)ethyl-4-allyloxybenzamide | C1(=CC=CC2=CC=CC=C12)[C@H](C)NC(C1=CC=C(C=C1)OCC=C)=O | C22H21NO2
